US07786108B2
Step 4. Preparation of (S)-6-(3,5-Bis-trifluoromethyl-benzylamino)-4-methyl-2,3,6,7,8,9-hexahydro-1H-10-aza-cyclohepta[e]indene-10-carboxylic acid isopropyl ester
Add cesium carbonate (383 mg, 2.52 mmol), methyl boronic acid (76 mg, 1.26 mmol) and [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (69 mg, 0.084 mmol) to a solution of (S)-6-(3,5-bis-trifluoromethyl-benzylamino)-4-bromo-2,3,6,7,8,9-hexahydro-1H-10-aza-cyclohepta[e]indene-10-carboxylic acid isopropyl ester (500 mg, 0.84 mmol) in dioxane (7 mL). Stir the mixture under nitrogen at 110° C. for 2 h. Cool down the mixture to room temperature and filter over Celite® washing with dichloromethane. Evaporate the solvent and purify the crude by chromatography, eluting with hexane/ethyl acetate (90/10) to afford the title compound (355 mg, 0.67 mmol, 80%). MS (ES+): 529 (M+H).

reactant | cesium carbonate | 2.52 mmol, 383 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl boronic acid | 1.26 mmol, 76 mg | CB(O)O | CH5BO2
reactant | dichloromethane | 0.084 mmol, 69 mg | ClCCl | CH2Cl2
reactant | (S)-6-(3,5-bis-trifluoromethyl-benzylamino)-4-bromo-2,3,6,7,8,9-hexahydro-1H-10-aza-cyclohepta[e]indene-10-carboxylic acid isopropyl ester | 0.84 mmol, 500 mg | C(C)(C)OC(=O)N1CCC[C@@H](C2=C1C=1CCCC1C(=C2)Br)NCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C26H27BrF6N2O2
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | (S)-6-(3,5-Bis-trifluoromethyl-benzylamino)-4-methyl-2,3,6,7,8,9-hexahydro-1H-10-aza-cyclohepta[e]indene-10-carboxylic acid isopropyl ester | 0.67 mmol, 355 mg, 80% | C(C)(C)OC(=O)N1CCC[C@@H](C2=C1C=1CCCC1C(=C2)C)NCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C27H30F6N2O2
